US09303040B2
1-(1-(tert-Butyldimethylsilyloxy)-3-(4-chlorophenyl)propan-2-yl)cyclopropanamine (2.6 g, 7.6 mmol) was dissovled in THF (60 mL). Boc2O (2.0 g, 9.2 mmol), DMAP (93 mg, 0.76 mmol) and triethylamine (1.6 mL, 12 mmol) were added. The mixture was stirred at room temperature overnight. The solvent was evaporated, and the residue partitioned between EtOAc and water. The organic phase was separated and washed with brine, dried and concentrated. The residue was purified by column chromatography (hexanes:EtOAc, 6:1) to give tert-butyl 1-(1-(tert-butyldimethylsilyloxy)-3-(4-chlorophenyl)propan-2-yl)cyclopropylcarbamate (2.0 g, 59%).

reactant | 1-(1-(tert-Butyldimethylsilyloxy)-3-(4-chlorophenyl)propan-2-yl)cyclopropanamine | 7.6 mmol, 2.6 g | [Si](C)(C)(C(C)(C)C)OCC(CC1=CC=C(C=C1)Cl)C1(CC1)N | C18H30ClNOSi
reactant | Boc2O | 9.2 mmol, 2.0 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 12 mmol, 1.6 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 60 mL | C1CCOC1 | C4H8O
catalyst | DMAP | 0.76 mmol, 93 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | tert-butyl 1-(1-(tert-butyldimethylsilyloxy)-3-(4-chlorophenyl)propan-2-yl)cyclopropylcarbamate | 2.0 g, 59% | [Si](C)(C)(C(C)(C)C)OCC(CC1=CC=C(C=C1)Cl)C1(CC1)NC(OC(C)(C)C)=O | C23H38ClNO3Si
